US07612211B2
D. (4-cyclopropyl-phenoxy)-acetic acid
To a solution of (4-cyclopropyl-phenoxy)-acetic acid methyl ester (1.29 g, 6.27 mmol) in mixed solvent (10 mL, MeOH: THF=1:1) was added 1N lithium hydroxide solution (5 mL). After stirring for 6 hours, the reaction mixture was acidified with aqueous 2N HCl and subsequently extracted with EtOAc. The separated organic layer was washed with brine, dried over Na2SO4, filtered, and the filtrate was concentrated under reduced pressure to afford the title compound as a yellow oil (1.18 g, 98%).

reactant | (4-cyclopropyl-phenoxy)-acetic acid methyl ester | 6.27 mmol, 1.29 g | COC(COC1=CC=C(C=C1)C1CC1)=O | C12H14O3
reactant | MeOH | CO | CH4O
reactant | lithium hydroxide | 1N, 5 mL | [OH-].[Li+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | (4-cyclopropyl-phenoxy)-acetic acid | 1.18 g, 98% | C1(CC1)C1=CC=C(OCC(=O)O)C=C1 | C11H12O3
